US04225609
Preparation of Methyl 4-{3-[3-[2-(1-Hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoate
A solution of diazomethane (approximately 2.5 g., 0.06 mole) in ether (100 ml.) is mixed with a solution of 4-{3-[3-[2-(1-hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoic acid (11.7 g., 0.03 mole) in ether (100 ml.). The resulting solution is allowed to stand at room temperature for 6 hours. Acetic acid is then added to destroy the excess diazomethane, and the solution is washed with dilute sodium bicarbonate solution and dried over sodium sulfate. Evaporation of volatile materials in vacuo yields the title compound as a nearly colorless, viscous oil.

reactant | diazomethane | 0.06 mole, approximately 2.5 g | [N+](=[N-])=C | CH2N2
reactant | 4-{3-[3-[2-(1-hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoic acid | 0.03 mole, 11.7 g | OC1(CCCCC1)CCN1C(SCC1=O)CCCC1=CC=C(C(=O)O)C=C1 | C21H29NO4S
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | Methyl 4-{3-[3-[2-(1-Hydroxycyclohexyl)ethyl]-4-oxo-2-thiazolidinyl]propyl}benzoate | OC1(CCCCC1)CCN1C(SCC1=O)CCCC1=CC=C(C(=O)OC)C=C1 | C22H31NO4S
